US04131646
9,10-Dihydro-9,10-dimethylanthracene was prepared by hydrogenation of 9,10-dimethylanthracene with Girdler G-22 copper chromite catalyst in toluene at 120° C. and 1500 psi for 1 hour. The mixtures resulting from five such runs were combined and filtered, and the off-white solid product was isolated by evaporating the solvent. It was characterized by nmr spectroscopy.

reactant | 9,10-dimethylanthracene | CC=1C2=CC=CC=C2C(=C2C=CC=CC12)C | C16H14
catalyst | copper chromite | [Cr](=O)([O-])[O-].[Cu+2]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 9,10-Dihydro-9,10-dimethylanthracene | yield of about 8% | CC1C2=CC=CC=C2C(C=2C=CC=CC12)C | C16H16
